US04001238
4-Amino-6,7-dimethoxy-2-[4-(5-n-butylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]-quinazoline hydrochloride
The title compound was prepared from 5-n-butylthio-1,3,4-oxadiazole-2-carbonyl chloride and 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline following the procedure of Example 1.

reactant | 5-n-butylthio-1,3,4-oxadiazole-2-carbonyl chloride | C(CCC)SC1=NN=C(O1)C(=O)Cl | C7H9ClN2O2S
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(5-n-butylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]-quinazoline hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1OC(=NN1)SCCCC | InChI=1S/C21H27N7O4S.ClH/c1-4-5-10-33-21-26-25-18(32-21)19(29)27-6-8-28(9-7-27)20-23-14-12-16(31-3)15(30-2)11-13(14)17(22)24-20;/h11-12H,4-10H2,1-3H3,(H2,22,23,24);1H
